US08053574B2
Step 1: 3-Bromo-5-ethoxy-pyridine
Triphenylphosphine (0.461 g, 1.758 mmol) is added to a mixture of 3-bromo-5-hydroxy pyridine (0.3 g, 1.724 mmol) in THF (10 ml). Ethanol (0.103 ml) is added the reaction mixture is cooled to 0° C. (ice-bath). DEAD (0.277 ml, 1.758 mmol) is finally added and the mixture is warmed to room temperature and stirred overnight. The crude material is purified by flash chromatography by wet loading onto a 50 g silica column eluting with 3:1 iso-hexanes:EtOAc to afford the title compound as a yellow oil, [MH+ 201.88].

reactant | Triphenylphosphine | 1.758 mmol, 0.461 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromo-5-hydroxy pyridine | 1.724 mmol, 0.3 g | BrC=1C=NC=C(C1)O | C5H4BrNO
reactant | Ethanol | 0.103 ml | C(C)O | C2H6O
reactant | DEAD | 1.758 mmol, 0.277 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Bromo-5-ethoxy-pyridine | BrC=1C=NC=C(C1)OCC | C7H8BrNO
